US05198402
4-Hydroxy-N-phenylphthalimide was synthesized from 4-hydroxyphthalic acid and aniline in the same manner as in Example 1, a). By the reaction of the synthesized compound with trifluoromethanesulfonic anhydride, 4-(N-phenylphthalimide)-yl-triflate (NPhITf) was synthesized.

reactant | 4-hydroxyphthalic acid | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 4-Hydroxy-N-phenylphthalimide | OC=1C=C2C(C(=O)N(C2=O)C2=CC=CC=C2)=CC1 | C14H9NO3
